US07115644B2
A mixture of 4-chloro-3-nitro-phenol (5.00 g, 28.81 mmol), phenylboronic acid (7.03 g, 57.62 mmol), copper(II) acetate (5.23 g, 28.81 mmol) and 4 Å molecular sieves (0.5 g) in dichloromethane (200 mL) and triethylamine (20.08 mL, 144.04 mmol) was placed in a round bottomed flask. The resulting suspension was stirred under a dry ambient atmosphere at room temperature for 4 days. The mixture was filtered through diatomaceous earth and the solvent was evaporated. The resulting residue was re-dissolved in EtOAc, adhered to silica gel and flash chromatographed (2% EtOAc/hexane) to give 1-chloro-2-nitro-4-phenoxy-benzene as a yellow oil (1.53 g, 22.0% yield).

reactant | 4-chloro-3-nitro-phenol | 28.81 mmol, 5.00 g | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | phenylboronic acid | 57.62 mmol, 7.03 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 144.04 mmol, 20.08 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | copper(II) acetate | 28.81 mmol, 5.23 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-chloro-2-nitro-4-phenoxy-benzene | 1.53 g, 22.0% yield | ClC1=C(C=C(C=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C12H8ClNO3
